US07262200B2
Step F: 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-phenyl-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one
To 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-iodo-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one (300 mg, 0.48 mmol), and phenyl boronic acid (88 mg, 0.72 mmol) in DMSO and 1.5 M potassium phenolate (2.6 mL) was added PdCl2 (dppf)2 (175 mg) and the solution was heated to 100° C. in a sealed tube. After 12 hr, the solution was diluted with water, extracted with ethyl acetate, dried (Na2SO4) and concentrated. The title compound was isolated by preparative HPLC as a white solid (0.82 mg). HPLC tr=5.14 min (10% to 90% MeCN over 8 min, total time 12 min, 3×150 mm C18 column) FIA m/e 475.55 (M+H), 473.55 (M−H).

reactant | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-iodo-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one | 0.48 mmol, 300 mg | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=C(C=C12)I)NC1=CC=C2C(NNC2=C1)=O | C21H17IN8O
reactant | phenyl boronic acid | 0.72 mmol, 88 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | potassium phenolate | 1.5 M, 2.6 mL | C1(=CC=CC=C1)[O-].[K+]
solvent | water | O | H2O
product | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-phenyl-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=C(C=C12)C1=CC=CC=C1)NC1=CC=C2C(NNC2=C1)=O | C27H22N8O
